US07109354B2
b) (2-Iodo-3-methyl-phenyl)-methanol
2-Iodo-3-methyl-benzoyl chloride (1360 mg, 4.86 mmol, Example 131: a) was dissolved into THF (2 mL) and cooled to −78° C. To this was slowly added a slurry of lithium aluminum hydride (184.3 mg, 4.86 mmol) that was carefully weighed into a dry flask and cooled to 78° C., before THF (2 mL) was added. The reaction was warmed to RT slowly and stirred for an hour. The reaction was quenched by cooling back to −78° C. and adding 200 μL water, 200 μL 15% NaOH, 600 μL water and then poured over celite and filtered with THF. The title compound was obtained as a yellow solid. 1H-NMR (CDCl3): δ 7.21–7.19 (m, 2H), 7.14–7.11 (m, 1H,), 4.61 (s, 2H), 2.43 (s, 3H).

reactant | 2-Iodo-3-methyl-benzoyl chloride | IC1=C(C(=O)Cl)C=CC=C1C | C8H6ClIO
reactant | lithium aluminum hydride | 4.86 mmol, 184.3 mg | [H-].[Al+3].[Li+].[H-].[H-].[H-]
solvent | THF | 2 mL | C1CCOC1 | C4H8O
solvent | THF | 2 mL | C1CCOC1 | C4H8O
product | (2-Iodo-3-methyl-phenyl)-methanol | IC1=C(C=CC=C1C)CO | C8H9IO
